US07642264B2
3′-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-biphenyl-3-sulfonic acid amide
The title compound was prepared from 3-[4-methyl-6-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid (example G.10) (0.407 g, 1.14 mmol) and commercially available 3-bromobenzenesulfonamide (177 mg, 1.14 mmol) according to the general procedure VI. Obtained as a white solid (0.052 g, 10%). MS (ISP) 469.4 [(M+H)+]; mp 200° C.

reactant | 3-[4-methyl-6-(4-trifluoromethyl-phenyl)pyridin-2-yl]-benzeneboronic acid | 1.14 mmol, 0.407 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)B(O)O | C19H15BF3NO2
reactant | 3-bromobenzenesulfonamide | 1.14 mmol, 177 mg | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
product | 3′-[4-Methyl-6-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-biphenyl-3-sulfonic acid amide | CC1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1=CC(=CC=C1)S(=O)(=O)N | C25H19F3N2O2S
